US06987199B2
Preparation of ethyl 2,4,5-trifluorobenzoylacetate
To a stirred suspension of 125 mg of zinc dust in 5.0. of tetrahydrofuran was added 11.0 mg of methanesulfonic acid and the mixture was heated at reflux. To the mixture was added 200 mg of 2,4,5-trifluorobenzonitrile, and subsequently 276 mg of ethyl bromoacetate was added dropwise over 1 hour. After the completion of the addition, the mixture was stirred at reflux for further 0.5 hour. The reaction mixture was cooled to 0 to 10° C., 1. of 3N aqueous hydrochloric acid solution was added, and the mixture was slowly warmed to room temperature. The reaction solution was stirred for 2 hours. Tetrahydrofuran was removed by distillation under reduced pressure. The residue was extracted with ethyl acetate and purified by silica gel column chromatography (eluent: ethylacetate/n-hexane= 1/10, v/v) to give the title compound in a yield of 80% (250 mg).

reactant | methanesulfonic acid | 11.0 mg | CS(=O)(=O)O | CH4O3S
reactant | 2,4,5-trifluorobenzonitrile | 200 mg | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | ethyl bromoacetate | 276 mg | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 3N | Cl | ClH
catalyst | zinc | 125 mg | [Zn] | Zn
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 2,4,5-trifluorobenzoylacetate | yield of 80% | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)F | C11H9F3O3
